* External-chopper AFE v4: input mod chopper + CT PGA (full2_nc) + output demod
* chopper. Both choppers OUTSIDE the feedback loop. Same 8 kHz phases.
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_tg_lowq.spice
.include eeg_fd_ota_core_soft.spice
.include eeg_pseudo_res.spice
.include eeg_bias_gen.spice
.include eeg_fd_ota_chopped_full2.spice
.include eeg_fd_ota_full2_nc.spice
.param VDD=1.80 VCM=0.9 TCHOP=125u
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VPHI PHI 0 PULSE(0 {VDD} 50n 20n 20n 62.35u {TCHOP})
VPHIB PHIB 0 PULSE(0 {VDD} 62.55u 20n 20n 62.35u {TCHOP})
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
* input signal
VSIGP SIGP 0 SIN({VCM} 100u 8)
VSIGN SIGN 0 SIN({VCM} 100u 8 0 0 180)
* input mod chopper
XCHIN SIGP SIGN SIGCP SIGCN PHI NPHI PHIB NPHIB VDD18 0 eeg_cmos_chopper_lowq
* capacitively-coupled PGA running at 8 kHz
CINP SIGCP INP 32p
CINN SIGCN INN 32p
CFP OUTP_A INP 1p
CFN OUTN_A INN 1p
RBIASP INP VCM_REF 1T
RBIASN INN VCM_REF 1T
XOTA INP INN VCM_REF OUTP_A OUTN_A VDD18 0 eeg_fd_ota_full2_nc
* output demod chopper
XCHOUT OUTP_A OUTN_A OUTP OUTN PHI NPHI PHIB NPHIB VDD18 0 eeg_cmos_chopper_lowq
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
.nodeset v(OUTP_A)=0.93 v(OUTN_A)=0.93 v(INP)=0.9 v(INN)=0.9
.control
set noaskquit
tran 50n 512m
wrdata ../results/afe_ext.csv time v(OUTP)-v(OUTN) v(OUTP_A)-v(OUTN_A)
quit
.endc
.end
