* Chopped PGA x32 + behavioral DC servo (G-source), 512 ms
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_tg_lowq.spice
.include eeg_fd_ota_core_soft.spice
.include eeg_pseudo_res.spice
.include eeg_bias_gen.spice
.include eeg_fd_ota_chopped_full2.spice
.param VDD=1.80 VCM=0.9 TCHOP=125u KSERVO=200u
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VPHI PHI 0 PULSE(0 {VDD} 50n 20n 20n 62.35u {TCHOP})
VPHIB PHIB 0 PULSE(0 {VDD} 62.55u 20n 20n 62.35u {TCHOP})
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
VSIGP SIGP 0 SIN({VCM} 100u 8)
VSIGN SIGN 0 SIN({VCM} 100u 8 0 0 180)
CINP SIGP INP 32p
CINN SIGN INN 32p
CFP OUTN INP 1p
CFN OUTP INN 1p
RBIASP INP VCM_REF 1T
RBIASN INN VCM_REF 1T
XAFE INP INN VCM_REF OUTP OUTN PHI NPHI PHIB NPHIB PHI NPHI PHIB NPHIB VDD18 0 eeg_fd_ota_chopped_full2
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
* behavioral DC servo: LPF each output, inject counter-current at summing nodes
RLPFP OUTP LPFP 10Meg
CLPFP LPFP 0 100p
RLPFN OUTN LPFN 10Meg
CLPFN LPFN 0 100p
GSERVOP VCM_REF INP LPFP LPFN {KSERVO}
GSERVON VCM_REF INN LPFN LPFP {KSERVO}
.nodeset v(OUTP)=0.93 v(OUTN)=0.93 v(INP)=0.9 v(INN)=0.9 v(LPFP)=0.93 v(LPFN)=0.93
.control
set noaskquit
tran 50n 1.024s
wrdata ../results/afe_servo.csv time v(OUTP)-v(OUTN)
quit
.endc
.end
